US08455659B2
Step C-1: Methyl (3aS,4R,7aR)-4-[(1R,2R)-2,3-dihydroxy-1-methoxypropyl]-2-methyl-3a,7a-dihydro-4H-pyrano[3,4-d][1,3]oxazole-6-carboxylate
Methanol (460 ml) and a 25.4% sodium methoxide methanol solution (14.36 g) were added to a toluene solution (approximately 675 ml) of a compound, which was obtained by subjecting methyl (3aS,4R,7aR)-4-{(S)-hydroxy[(4R)-2-oxo-1,3-dioxolan-4-yl]methyl}-2-methyl-3a,7a-dihydro-4H-pyrano[3,4-d][1,3]oxazole-6-carboxylate (46.00 g) to Step A-5 of Example 1, at room temperature, and the mixture was stirred for 30 minutes at the same temperature. The solvent of the reaction solution was distilled off under reduced pressure until the amount of solution became approximately 138 ml, methanol (460 ml) was added, and the reaction solution was stirred for 30 minutes at room temperature. After acetic acid (4.41 g) was added to the reaction solution and the solvent was distilled off under reduced pressure until the amount of solution became approximately 138 ml, toluene (230 ml) was added to the reaction solution and then the solvent was distilled off again under reduced pressure until the amount of solution became 138 ml to give a toluene suspension of the title compound.

reactant | Methanol | 460 ml | CO | CH4O
reactant | sodium methoxide methanol | 14.36 g | CO.C[O-].[Na+]
reactant | methyl (3aS,4R,7aR)-4-{(S)-hydroxy[(4R)-2-oxo-1,3-dioxolan-4-yl]methyl}-2-methyl-3a,7a-dihydro-4H-pyrano[3,4-d][1,3]oxazole-6-carboxylate | 46.00 g | O[C@@H]([C@@H]1OC(=C[C@@H]2[C@@H]1N=C(O2)C)C(=O)OC)[C@@H]2OC(OC2)=O | C13H15NO8
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | approximately 675 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl (3aS,4R,7aR)-4-[(1R,2R)-2,3-dihydroxy-1-methoxypropyl]-2-methyl-3a,7a-dihydro-4H-pyrano[3,4-d][1,3]oxazole-6-carboxylate | O[C@@H]([C@@H](OC)[C@@H]1OC(=C[C@@H]2[C@@H]1N=C(O2)C)C(=O)OC)CO | C13H19NO7
